US06706723B2
N-(4-{4-[5-(2-Ethoxy-ethyl)-2,4,6trioxo-hexahydro-pyrimidin-5-yloxy]phenoxy}-benzyl)-propionamide
Following the procedure outlined for the preparation of Example 1, N-[4-(4-hydroxy-phenoxy)-benzyl]-propionamide (0.13 g, 0.47 mmol) was reacted with 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (0.13 g, 0.48 mmol), 1,5,7-trazabicyclo[4.4.0]dec-5-ene bound to polystyrene crosslinked with 2% DVB (PTBD, Fluka, 0.31 g) and 1.55 mL of acetonitrile, benzyl)-propionamide (0.060 g) as a colorless solid.

reactant | N-[4-(4-hydroxy-phenoxy)-benzyl]-propionamide | 0.47 mmol, 0.13 g | OC1=CC=C(OC2=CC=C(CNC(CC)=O)C=C2)C=C1 | C16H17NO3
reactant | 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 0.48 mmol, 0.13 g | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
reactant | dec-5-ene | CCCCC=CCCCC | C10H20
reactant | PTBD | C1(C(OC(O1)(C(F)(F)F)C(F)(F)F)(F)F)(C2(C(OC(O2)(C(F)(F)F)C(F)(F)F)(F)F)F)F | C10F18O4
reactant | propionamide | 0.060 g | C(CC)(=O)N | C3H7NO
solvent | acetonitrile | 1.55 mL | C(C)#N | C2H3N
product | N-(4-{4-[5-(2-Ethoxy-ethyl)-2,4,6trioxo-hexahydro-pyrimidin-5-yloxy]phenoxy}-benzyl)-propionamide | C(C)OCCC1(C(NC(NC1=O)=O)=O)OC1=CC=C(OC2=CC=C(CNC(CC)=O)C=C2)C=C1 | C24H27N3O7
